US08420640B2
A solution of 4-bromo-2-fluoro-1-nitrobenzene (10.0 g, 45 mmol), diisopropanylethylamine (15.8 ml, 90 mmol) and aniline (5.0 ml, 54 mmol) in 100 ml 1-methylpyrrolidin-2-one (NMP) was heated at 100° C. for 16 hours. The solution was cooled to room temperature and added 1,000 ml water. The result red precipitate was filtered and washed with water (100 ml), dried under high vacuum to obtain 5-bromo-2-nitro-N-phenylbenzenamine (10.3 g, 77%). A solution of 5-bromo-2-nitro-N-phenylbenzenamine (0.50 g, 1.7 mmol) and piperidine (0.67 ml, 6.8 mmol) in 10 ml NMP was heated at 100° C. for 16 hours. The reaction was quenched with 100 ml water. The mixture was extracted with ethyl acetate (3×20 ml) and dried over anhydrous sodium sulfate. 2-Nitro-N-phenyl-5-(piperidin-1-yl)benzenamine (0.50 g, 100%) was obtained by flash column chromatograph (30% acetyl acetate in hexanes). 1H NMR (500 MHz, CDCl3) δ (ppm) 1.66 (m, 6H), 3.33 (t, J=5.8 Hz, 4H), 6.34 (dd, J=2.6, 9.7 Hz, 1H), 6.42 (d, J=2.6 Hz, 1H), 7.23-7.46 (m, 5H), 8.14 (d, J=9.7 Hz, 1H), 9.93 (s, 1H). 13C NMR (125 MHz, CDCl3): δ (ppm) 24.8, 25.4, 48.7, 95.6, 106.4, 124.8, 125.6, 129.4, 130.1, 139.7, 146.0, 156.0.

reactant | 5-bromo-2-nitro-N-phenylbenzenamine | 1.7 mmol, 0.50 g | BrC=1C=CC(=C(C1)NC1=CC=CC=C1)[N+](=O)[O-] | C12H9BrN2O2
reactant | piperidine | 6.8 mmol, 0.67 ml | N1CCCCC1 | C5H11N
solvent | NMP | 10 ml | CN1CCCC1=O | C5H9NO
product | 2-Nitro-N-phenyl-5-(piperidin-1-yl)benzenamine | 0.50 g, 100% | [N+](=O)([O-])C1=C(C=C(C=C1)N1CCCCC1)NC1=CC=CC=C1 | C17H19N3O2
